US07241785B2
To a mixture of potassium t-butoxide (3.82 g) and dimethoxyethane (20 ml) was added a solution of p-toluenesulfonylmethyl isocyanide (3.51 g) in dimethoxyethane (20 ml) and the mixture was stirred at −78° C. for 5 min. Then a solution of 3-benzyloxy-1-phenyl-1H-pyrazole-4-carbaldehyde (4.73 g) in dimethoxyethane (80 ml) was added. After stirring at said temperature for 1 hr, the mixture was stirred for 1 hr. while raising the temperature to room temperature. To the obtained mixture was added methanol (100 ml), and the mixture was refluxed for 1 hr. After cooling, the reaction solution was poured into saturated aqueous ammonium chloride solution and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and 3-benzyloxy-1-phenyl-1H-pyrazol-4-ylacetonitrile (3.31 g, yield 67%). was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio). The crystals were recrystallized from tetrahydrofuran-hexane. melting point: 102–103° C.

reactant | potassium t-butoxide | 3.82 g | CC(C)([O-])C.[K+]
reactant | p-toluenesulfonylmethyl isocyanide | 3.51 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | 3-benzyloxy-1-phenyl-1H-pyrazole-4-carbaldehyde | 4.73 g | C(C1=CC=CC=C1)OC1=NN(C=C1C=O)C1=CC=CC=C1 | C17H14N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 80 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | methanol | 100 ml | CO | CH4O
product | 3-benzyloxy-1-phenyl-1H-pyrazol-4-ylacetonitrile | 3.31 g, yield 67% | C(C1=CC=CC=C1)OC1=NN(C=C1CC#N)C1=CC=CC=C1 | C18H15N3O
